US05689779
A solution having 95 parts of lauryl methacrylate monomer dissolved in 200 parts of IP Solvent 1620 (produced by Idemitsu Petro-Chemical Co., Ltd.) was prepared. Argon gas was blown into the resultant solution for 10 minutes to displace the entire reaction system with argon gas. Then, the reaction system, after adding 1 mol %, based on the monomer, of benzoyl peroxide (BPO) as a polymerization initiator, was kept at 80° C. for four hours to polymerize the monomer. Subsequently, the reaction system, after being cooled to 30° C., allowed to add 5 parts of N-vinyl-2-pyrrolidone monomer and further add 1 mol %, based on the monomer, of azobis-isobutyronitrile (AIBN), was again kept at 90° C. for four hours to complete the polymerization. The solution of the lauryl methacrylate/N-vinyl-2-pyrrolidone copolymer consequently obtained was labeled as "disperse charge resin A."

reactant | lauryl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCC | C16H30O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-vinyl-2-pyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | azobis-isobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | lauryl methacrylate N-vinyl-2-pyrrolidone | C(C(=C)C)(=O)OCCCCCCCCCCCC.C(=C)N1C(CCC1)=O | InChI=1S/C16H30O2.C6H9NO/c1-4-5-6-7-8-9-10-11-12-13-14-18-16(17)15(2)3;1-2-7-5-3-4-6(7)8/h2,4-14H2,1,3H3;2H,1,3-5H2
